US04067726
10.45 g (0.1 mol) of chloroformic acid methyl ester, followed by 10.1 g (0.1 mol) of triethylamine, were added dropwise to a solution of 20.6 g (0.1 mol) of 3-amino-phenylacetic acid tert.-butylamide in 200 ml of acetone whilst cooling at 15 to 20° C. The mixture was stirred for a further 2 hours at room temperature, the triethylamine hydrochloride which had precipitated was filtered off and the filtrate was concentrated by evaporation under reduced pressure. The residue which hereupon remained was stirred with very dilute hydrochloric acid, filtered off, dried and recrystallized from a little carbon tetrachloride. 22 g (83.5% of theory) of 3-methoxycarbonylamino-phenylacetic acid tert.-butylamide of melting point 123°-124° C were obtained.

reactant | chloroformic acid methyl ester | 0.1 mol, 10.45 g | COC(=O)Cl | C2H3ClO2
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 3-amino-phenylacetic acid tert.-butylamide | 0.1 mol, 20.6 g | C(C)(C)(C)NC(CC1=CC(=CC=C1)N)=O | C12H18N2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 3-methoxycarbonylamino-phenylacetic acid tert.-butylamide | 22 g, 83.5% | C(C)(C)(C)NC(CC1=CC(=CC=C1)NC(=O)OC)=O | C14H20N2O3
